US06544990B2
Preparation 5 N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxamide
A suspension of ethyl 4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxylate (0.8 g) and 4-chlorobenzylamine (1.54 mL) is heated to 180 ° C. for 1 h. The reaction is cooled to room temperature. The resulting solid is collected and washed with Et2O. The crude solid is adsorbed onto silica and chromatographed (Biotage flash 40S, eluent 1% MeOH/CH2Cl2 then 2% MeOH/CH2Cl2). Fractions homogeneous by TLC are combined and concentrated. The resulting solid is triturated with EtOAc/hexanes to yield 0.73 g (75%) of the desired product as a white solid.

reactant | ethyl 4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxylate | 0.8 g | OC1=C(C=NC2=C(C=C(C=C12)CC1CCOCC1)I)C(=O)OCC | C18H20INO4
reactant | 4-chlorobenzylamine | 1.54 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxamide | 0.73 g, 75% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CC2CCOCC2)I)C=C1 | C23H22ClIN2O3
